US06180664B2
1 g (3.5 mmol) of methyl 3-nitryloxy-2,2-bis(nitryloxymethyl)propionate is heated for 3 hours at 130° C. with 3 ml of benzylamine and 100 mg of ammonium chloride and the mixture is cooled, taken up in 50 ml of chloroform and washed successively with water, with dilute hydrochloric acid, with aqueous bicarbonate solution and again with water. The crude product obtained after evaporation of the solvent is purified by column chromatography to give 3-nitryloxy-2,2-bis(nitryloxymethyl)propionic acid N-benzylamide (Tri-PA-NBzl amide) as a colourless oil. Yield: 73%. Elemental analysis: (C: conforms, H: conforms, N: conforms).

reactant | methyl 3-nitryloxy-2,2-bis(nitryloxymethyl)propionate | 3.5 mmol, 1 g | [N+](=O)([O-])OCC(C(=O)OC)(CO[N+](=O)[O-])CO[N+](=O)[O-] | C6H9N3O11
reactant | benzylamine | 3 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | ammonium chloride | 100 mg | [Cl-].[NH4+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-nitryloxy-2,2-bis(nitryloxymethyl)propionic acid N-benzylamide | Yield: 73% | C(C1=CC=CC=C1)NC(C(CO[N+](=O)[O-])(CO[N+](=O)[O-])CO[N+](=O)[O-])=O | C12H14N4O10
